US06756388B1
(6-Chloro-pyridin3-yl)-[6-methoxy-2-(4-methoxy-phenyl) -benzo[b]thiophen-3-yl]-methanone.
To a suspension of 2-Chloropyridine-5-carbonyl chloride (4.23 gm, 24 mmol) and 6-Methoxy-2-(4-methoxy-phenyl) -benzo[b]thiophene (5.0 gm, 18.5 mmol) in 275 mL of methylene chloride was added aluminum trichloride (18.59 g, 138.8 mmol) in three portions. The black-red reaction was stirred for 16 hrs. at room temperature. The reaction was then quenched with 400 mL of 2N NaOH (slowly and cooled in ice) and extracted into 300 mL of methylene chloride. The organic layer was washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated to a yellow solid which was chromatographed on silica gel using 5% to 20% Ethyl acetate/Hexanes as the gradient eluant to yield 2.47 gm of the title compound.

reactant | 2-Chloropyridine-5-carbonyl chloride | 24 mmol, 4.23 gm | ClC1=NC=C(C=C1)C(=O)Cl | C6H3Cl2NO
reactant | 6-Methoxy-2-(4-methoxy-phenyl) -benzo[b]thiophene | 18.5 mmol, 5.0 gm | COC=1C=CC2=C(SC(=C2)C2=CC=C(C=C2)OC)C1 | C16H14O2S
reactant | aluminum trichloride | 138.8 mmol, 18.59 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | methylene chloride | 275 mL | C(Cl)Cl | CH2Cl2
product | (6-Chloro-pyridin3-yl)-[6-methoxy-2-(4-methoxy-phenyl) -benzo[b]thiophen-3-yl]-methanone | 2.47 gm | ClC1=CC=C(C=N1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)OC)C=C(C=C2)OC | C22H16ClNO3S
